US09023864B2
{7-[5-(9-Hydroxy-9H-fluoren-9-yl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid
The title compound was prepared using procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 9-ethynyl-9H-fluoren-9-ol. MS (+ESI) m/z: 477.1.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 9-ethynyl-9H-fluoren-9-ol | C(#C)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C15H10O
product | {7-[5-(9-Hydroxy-9H-fluoren-9-yl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid | OC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CN=NN1C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C29H24N4O3
